US06166011
(2S)-1-(5-Chloro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid
The title compound was prepared by a similar method to Preparation 3 from benzyl (2S)-1-(5-chloro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate [see Preparation 28] and 1N aqueous lithium hydroxide solution to afford (2S)-1-(5-chloro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid as an oil.

reactant | benzyl (2S)-1-(5-chloro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylate | ClC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)OCC2=CC=CC=C2)C1 | C20H19ClN2O3
reactant | lithium hydroxide | 1N | [OH-].[Li+]
product | (2S)-1-(5-chloro-1,3-benzoxazol-2-yl)-2-piperidinecarboxylic acid | ClC=1C=CC2=C(N=C(O2)N2[C@@H](CCCC2)C(=O)O)C1 | C13H13ClN2O3
